US07034015B2
Diethyl 2-{[5-bromo-2-({3-chloro-4-[(2-methylphenyl)carbonyl]phenyl}amino)phenyl]amino}-2-oxoethylphosphonate (Compound 176)
The reactions were conducted under an argon atmosphere using oven dried glass ware. Diethylphosphonoacetic acid (0.085 mL, 0.53 mmol) was dissolved in dry toluene (1 mL) and thionylchloride (0.044 mL, 0.61 mmol) was added. The reaction mixture was refluxed for 1 h and then concentrated in vacuo. {4-[(2-Amino-4-bromophenyl)amino]-2-chlorophenyl}(2-methylphenyl)methanone (0.28 g, 0.48 mmol)(disclosed in WO 01/05744) was dissolved in dry DCM (1 mL) and N,N-diisopropylethyl amine (0.16 mL, 0.96 mmol) was added followed by drop wise addition of the above acid chloride dissolved in dry DCM (2.5 mL). The reaction mixture was stirred at room temperature for 22 h after which it was diluted with DCM. The organic phase was washed with 10% aqueous NaHCO3, H2O and brine, dried (MgSO4), filtered and concentrated in vacuo. The crude product was purified by flash chromatography using EtOAc/petroleum ether 3:1 as the eluent to afford the title compound as an oil.

reactant | Diethylphosphonoacetic acid | 0.53 mmol, 0.085 mL | C(C)OP(=O)(OCC)CC(=O)O | C6H13O5P
reactant | thionylchloride | 0.61 mmol, 0.044 mL | S(=O)(Cl)Cl | Cl2OS
reactant | {4-[(2-Amino-4-bromophenyl)amino]-2-chlorophenyl}(2-methylphenyl)methanone | 0.48 mmol, 0.28 g | NC1=C(C=CC(=C1)Br)NC1=CC(=C(C=C1)C(=O)C1=C(C=CC=C1)C)Cl | C20H16BrClN2O
reactant | N,N-diisopropylethyl amine | 0.96 mmol, 0.16 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 2.5 mL | C(Cl)Cl | CH2Cl2
product | Diethyl 2-{[5-bromo-2-({3-chloro-4-[(2-methylphenyl)carbonyl]phenyl}amino)phenyl]amino}-2-oxoethylphosphonate | BrC=1C=CC(=C(C1)NC(CP(OCC)(OCC)=O)=O)NC1=CC(=C(C=C1)C(=O)C1=C(C=CC=C1)C)Cl | C26H27BrClN2O5P
